US05684017
5,7-Dichloro-2-acetyl-4-[benzenesulfonylimino]-1,4-dihydroquinoline
Combine 5,7-dichloro-2-acetyl-1,4-dihydroquinol-4-one (0.28 g, 1.1 mmol) and benzenesulfonyl isocyanate (0.16 mL, 1.2 mmol) in acetonitrile (5 mL). Heat at reflux for 3 hours. Add methanol (5 mL) to quench the reaction. Evaporate in vacuo to obtain a residue. Chromatograph the residue on a column of silica gel eluting with dichloromethane to obtain a solid. Recrystallize the solid from ethyl acetate/hexane to give the title compound; mp, 163°-164° C. Rf =0.32 TLC/silica gel/dichloromethane. Elem. Anal. Calcd. for C17H12Cl2 N2O3S: C, 51.65; H, 3.04; N, 7.09.

reactant | 5,7-dichloro-2-acetyl-1,4-dihydroquinol-4-one | 1.1 mmol, 0.28 g | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(C)=O)=O | C11H7Cl2NO2
reactant | benzenesulfonyl isocyanate | 1.2 mmol, 0.16 mL | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 5,7-Dichloro-2-acetyl-4-[benzenesulfonylimino]-1,4-dihydroquinoline | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(C)=O)=NS(=O)(=O)C1=CC=CC=C1 | C17H12Cl2N2O3S
